US06759429B2
To a solution of ethyl o-bromobenzoate (20.0 g), P(o-tol)3 (2.66 g), triethylamine (17.6 g) and acrylic acid (12.6 g) in toluene (70 mL) was added palladium acetate (980 mg) under nitrogen atmosphere, and the mixture was heated at 110° C. for one hour. The reaction solution was filtered, and extracted with a saturated aqueous sodium hydrogen carbonate solution. The aqueous layer was acidified with hydrochloric acid, extracted with ethyl acetate, dried, filtered, and concentrated to give 3-(2-ethoxycarbonylphenyl)acrylic acid (19.8 g, 103%).

reactant | ethyl o-bromobenzoate | 20.0 g | BrC1=C(C(=O)OCC)C=CC=C1 | C9H9BrO2
reactant | triethylamine | 17.6 g | C(C)N(CC)CC | C6H15N
reactant | acrylic acid | 12.6 g | C(C=C)(=O)O | C3H4O2
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 980 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | P(o-tol)3 | 2.66 g | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
product | 3-(2-ethoxycarbonylphenyl)acrylic acid | 19.8 g, 103% | C(C)OC(=O)C1=C(C=CC=C1)C=CC(=O)O | C12H12O4
